US05449810
Tetrahydrofuran (100 ml) was added to 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide (19.2 g, 42 mmols), followed by suspending, stirring under ice cooling till the liquid temperature reached 10° C. The reaction mixture was added potassium t-butoxide (4.7 g, 42 mmols), followed by elevating the temperature up to room temperature under ice cooling for one hour, stirring for one hour, dropwise adding a tetrahydrofuran (20 ml) solution of 2-(4-(4-cyanophenyl)cyclohexyl)acetaldehyde (9.0 g, 40 mmols) over 30 minutes from the dropping funnel, further stirring the reaction mixture for 5 hours after completion of the dropwise addition, adding ether (100 ml), allowing to stand for one hour, filtering off deposited insoluble substance, concentrating the filtrate under reduced pressure and isolating and purifying the resulting pale brown oil by means of silica gel column chromatography, to obtain white solids (6.8 g, 20 mmols) of 1-(4-(1,3-dioxan-2-yl)-2-butenyl)-4-(4-cyanophenyl)cyclohexane.

reactant | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide | 42 mmols, 19.2 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 42 mmols, 4.7 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 2-(4-(4-cyanophenyl)cyclohexyl)acetaldehyde | 40 mmols, 9.0 g | C(#N)C1=CC=C(C=C1)C1CCC(CC1)CC=O | C15H17NO
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(4-(1,3-dioxan-2-yl)-2-butenyl)-4-(4-cyanophenyl)cyclohexane | 20 mmols, 6.8 g | O1C(OCCC1)CC=CCC1CCC(CC1)C1=CC=C(C=C1)C#N | C21H27NO2
